US04138488
Heat a mixture of 16.5 g. (0.059 mole) of 2-chloro-5-(diphenylmethyl)-pyridine and 10.6 g. (0.059 mole) of cuprous cyanide in 120 ml. of hexamethylphosphoramide with stirring at 210°-220° C. for 7 hours. Pour the cooled reaction mixture into a solution of 200 ml. of ethylenediamine in 500 ml. of water, and extract with benzene. Wash the benzene extracts with 10% aqueous sodium cyanide, then with water, dry, treat with activated charcoal, filter, and concentrate to obtain 2-cyano-5-(diphenylmethyl)-pyridine. This compound is converted directly to the title compound by heating at reflux with 13 g. of potassium hydroxide pellets in 100 ml. water and 200 ml. ethylene glycol for 15 hours. Remove the ethylene glycol and water under reduced pressure, dissolve the residue in water, acidify with concentrated hydrochloric acid, and extract with chloroform. Dry the chloroform extracts. Concentrate the dried extracts to a residue and triturate the residue with isopropyl ether. Filter the solids, dry and recrystallize from ethanol to obtain 5-(diphenylmethyl)picolinic acid, m.p. 189°-191° C.

reactant | 2-chloro-5-(diphenylmethyl)-pyridine | 0.059 mole | ClC1=NC=C(C=C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C18H14ClN
reactant | ethylenediamine | C(CN)N | C2H8N2
solvent | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 2-cyano-5-(diphenylmethyl)-pyridine | C(#N)C1=NC=C(C=C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C19H14N2
